US04001426
3-p-Anisoyl-2-[4'-(3-diethylaminopropoxy)phenyl]benzofuran
To a solution of 1.02 g. (0.006 mol.) of p-anisoyl chloride in 75 ml. of methylene chloride was added 2.0 g. (6.2 mmol.) of the hydrochloride salt of 2-[4'-(3-diethylaminopropoxy)phenyl]benzofuran. The reaction mixture was cooled to 0°, 3.3 ml. (0.024 mol.) of stannic chloride was added and the resulting mixture was stirred for 10 minutes at 0° then for 2.75 hours at 25°. The mixture was then poured into water and stirred vigorously. The layers were separated and the organic phase was washed with 10% aqueous sodium carbonate solution and water, dried (MgSO4) and concentrated to give the title compound as an oil.

reactant | p-anisoyl chloride | 0.006 mol | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | 2-[4'-(3-diethylaminopropoxy)phenyl]benzofuran | C(C)N(CCCOC1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2)CC | C21H25NO2
solvent | water | O | H2O
product | 3-p-Anisoyl-2-[4'-(3-diethylaminopropoxy)phenyl]benzofuran | C(C1=CC=C(C=C1)OC)(=O)C1=C(OC2=C1C=CC=C2)C2=CC=C(C=C2)OCCCN(CC)CC | C29H31NO4
